US07683064B2
Preparation of 2-Bromo-6-[6-(1,1-dimethyl-2-oxo-ethyl)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-benzaldehyde:
2-Methyl-2-(1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl)-propionaldehyde (224 mg, 1.03 mmol), 2,6-Dibromo-benzaldehyde (1.09 g, 4 eq), xanthphos (27 mg, 0.03 eq) and cesium carbonate (470 mg, 1.4 eq) were taken up in dioxane (2 mL) and argon was bubbled through the mixture for 10 minutes, before adding bis(dibenzylideneacetone)palladium (18 mg, 0.03 eq). The resulting mixture was placed under an argon atmosphere and heated to 100° C. with stirring for 2.5 hours by which time all of the starting material had been consumed by TLC and LC/MS analysis. After cooling to room temperature, ethyl acetate (175 mL) and water (50 mL) were added and the layers were partitioned and separated. The ethyl acetate layer was washed with brine (1×50 mL) and then dried over magnesium sulfate, filtered and concentrated to give the crude product. Purification on silica gel eluting with a gradient ranging from 5% ethyl acetate to 40% ethyl acetate in hexanes gave the title compound as a light yellow powder (302 mg). MS (ESI) 400.0 (M+H)+.

reactant | 2-Methyl-2-(1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl)-propionaldehyde | 1.03 mmol, 224 mg | CC(C=O)(C)C=1C=C2CCNC(C2=CC1)=O | C13H15NO2
reactant | 2,6-Dibromo-benzaldehyde | 1.09 g, 4 eq | BrC1=C(C=O)C(=CC=C1)Br | C7H4Br2O
reactant | cesium carbonate | 470 mg, 1.4 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium | 18 mg, 0.03 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | xanthphos | 27 mg, 0.03 eq | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 2-Bromo-6-[6-(1,1-dimethyl-2-oxo-ethyl)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-benzaldehyde | 302 mg | BrC1=C(C=O)C(=CC=C1)N1C(C2=CC=C(C=C2CC1)C(C=O)(C)C)=O | C20H18BrNO3
